US08236826B2
Production of ethyl 3-[4-(3-nitrophenoxy)phenyl]-propionate
Under argon; to a solution of 3-iodonitrobenzene (3.00 g, 12.0 mmol) in pyridine (15 mL) were added ethyl 3-(4-hydroxyphenyl)propionate (2.81 g, 14.5 mmol), copper oxide (3.35 g, 42.2 mmol), and potassium carbonate (4.16 g, 30.1 mmol), and the resulting solution was heated to reflux for 40 hours. The reaction solution was concentrated under reduced pressure. Water and ethyl acetate were added to the residue, and once insoluble matter had been filtered off, and the filtrate was extracted with ethyl acetate out. The ethyl acetate layer was washed with 1 M hydrochloric acid, water and a saturated sodium bicarbonate solution, and then washed with brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=9:1→6:1), to thereby yield 1.12 g of the title compound.

reactant | 3-iodonitrobenzene | 12.0 mmol, 3.00 g | IC=1C=C(C=CC1)[N+](=O)[O-] | C6H4INO2
reactant | ethyl 3-(4-hydroxyphenyl)propionate | 14.5 mmol, 2.81 g | OC1=CC=C(C=C1)CCC(=O)OCC | C11H14O3
reactant | potassium carbonate | 30.1 mmol, 4.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper oxide | 42.2 mmol, 3.35 g | [Cu]=O
product | ethyl 3-[4-(3-nitrophenoxy)phenyl]-propionate | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)CCC(=O)OCC)C=CC1 | C17H17NO5
